US07101892B2
1-Cyclobutanesulfonyl-naphthalene
A mixture of naphthalene-1-thiol (1.17 g, 7.3 mmol), cyclobutyl bromide (1.45 g, 10.7 mmol), potassium carbonate (1.06 g, 7.7 mmol) and acetonitrile (20 ml) was stirred at 70° C. for 40 hours. the mixture was poured into water and extracted into ethyl acetate. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was treated with dichloromethane (30 ml), acetone (5 ml), 10% aqueous potassium bicarbonate and 18-crown-6 (100 mg, 0.4 mmol) and a solution of Oxone™ (10 g) in water (100 ml) was added. After completion, the layers were separated and the aqueous phase was extracted with dichloromethane. The combined organic extracts were dried (Na2SO4) and concentrated. The residue was purified on silica (i-hexane-ethyl acetate) to give the title product (257 mg, 14%).

reactant | naphthalene-1-thiol | 7.3 mmol, 1.17 g | C1(=CC=CC2=CC=CC=C12)S | C10H8S
reactant | cyclobutyl bromide | 10.7 mmol, 1.45 g | C1(CCC1)Br | C4H7Br
reactant | potassium carbonate | 7.7 mmol, 1.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
reactant | 18-crown-6 | 0.4 mmol, 100 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | water | 100 ml | O | H2O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-Cyclobutanesulfonyl-naphthalene | 257 mg, 14% | C1(CCC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C14H14O2S
